* C:\Users\shaun\Documents\GitHub\audio_jack_amp\analogue_amp.asc
XU1 N002 N005 N004 opamp Aol=100K GBW=10Meg
Q1 +9 N004 N006 0 PN2222A
Q2 0 N007 N006 0 PNP
Vdc +9 0 9V
R§speaker_load N003 0 8
C1 N006 N004 0.22µ
D1 N004 N007 D
C2 N004 N007 47µ
R1 N007 0 10k
R2 N002 N001 11k
R3 N003 N002 11k
V1 N001 0 SINE(0 0.5 100)
V2 N005 0 4.5V
C3 N003 N006 0.22µ
.model D D
.lib C:\Users\shaun\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\shaun\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 1
.lib opamp.sub
.include  .\component_libraries\PN2222A.LIB
.backanno
.end
